US08748462B2
Ethyl 3-chloro-4-(((trifluoromethyl)sulfonyl)oxy)benzoate (T2.4)
A mixture of ethyl 3-chloro-4-hydroxybenzoate (commercially available from Sigma-Aldrich, St. Louis, Mo., USA) (5.00 g, 25.0 mmol), N-phenyltriflimide (9.30 g, 26.0 mmol) and TEA (4.2 mL, 30.0 mmol) in DCM (40 mL) with a catalytic amount of DMAP, was stirred at ambient temperature overnight. DCM (150 mL) was added, and the reaction mixture was washed with brine (30×3 mL), dried over MgSO4, and the solvent was removed under reduced pressure. The product T2.4 was used in the next step without further purification. MS ESI (pos.) m/e: 335.0 (M+Na)+.

reactant | ethyl 3-chloro-4-hydroxybenzoate | ClC=1C=C(C(=O)OCC)C=CC1O | C9H9ClO3
reactant | N-phenyltriflimide | 26.0 mmol, 9.30 g | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-chloro-4-(((trifluoromethyl)sulfonyl)oxy)benzoate | ClC=1C=C(C(=O)OCC)C=CC1OS(=O)(=O)C(F)(F)F | C10H8ClF3O5S
